US07176203B2
e) 5-Bromo-2-oxo-2H-[1,2′]bipyridinyl-3′-carbonitrile
To 5-bromo-2-pyridone (1.0 g) and 2-chloro-3-cyanopyridine (1.0 g) in dry N,N-dimethylformamide (20 ml) was added caesium carbonate (2.73 g), and the mixture heated at 75° C. under a nitrogen atmosphere for 24 h. The solvent was removed in vacuo from the mixture and the residue partitioned between ethyl acetate and water. The organic layer was evaporated and the residue purified by chromatography (silica gel, 0 to 4% MeOH/CH2Cl2) to give the title compound, crystallised from diethyl ether/isohexane: 1H NMR (400 MHz, CDCl3) δ 8.81 (1H, dd, J 2.0, 5.1), 8.17 (1H, dd, J 1.8, 7.6), 7.67 (1H, d, J 2.7), 7.56 (1H, dd, J 4.9, 7.6), 7.49 (1H, dd, J 2.5, 10.0), 6.62 (1H, d, J 9.8); MS (ES+) m/z 276 and 278 [M+H]+.

reactant | 5-bromo-2-pyridone | 1.0 g | BrC=1C=CC(NC1)=O | C5H4BrNO
reactant | 2-chloro-3-cyanopyridine | 1.0 g | ClC1=NC=CC=C1C#N | C6H3ClN2
reactant | caesium carbonate | 2.73 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 5-Bromo-2-oxo-2H-[1,2′]bipyridinyl-3′-carbonitrile | BrC=1C=CC(N(C1)C1=NC=CC=C1C#N)=O | C11H6BrN3O
